US07625908B2
N-Methyl-N-{2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and N-[2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide to give the title compound as a white solid in 11% yield; NMR spectrum (DMSO-d6 373K) 1.94 (s, 3H), 2.28 (s, 3H), 3.00 (s, 3H), 3.88 (t, 2H), 4.46 (m, 2H), 5.20 (s, 2H), 7.01 (d, 1H), 7.16 (d, 1H), 7.34 (m, 2H), 7.51 (m, 2H), 7.55 (d, 1H), 7.68 (t, 1H), 7.83 (td, 1H), 8.41 (s, 1H), 8.58 (d, 1H), 9.63 (s, 1H); Mass spectrum MH+ 458.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | N-[2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)ethyl]-N-methylacetamide | OC1=C(C=C(C=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C)C | C20H22N4O3
product | N-Methyl-N-{2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide | 11% yield | CN(C(C)=O)CCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | C26H27N5O3
